Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Bactrim
 
Attending: ___.
 
Chief Complaint:
Pelvic pain and endometriosis
 
Major Surgical or Invasive Procedure:
laparoscopy converted to total abdominal hysterectomy, bilateral 
salpingo-oophorectomy, lysis of adhesions, and cystoscopy

 
History of Present Illness:
Ms. ___ is a ___ F who was admitted into the gynecology 
service after undergoing laparascopy, which was converted to a 
total abdominal hysterectomy, bilateral salpingo-oophorectomy, 
lysis of adhesions and cystoscopy for pelvic pain and 
endometriosis. Her surgery was complicated by the presence of 
extensive adhesions between her bowel, adnexa and uterus. Please 
refer to operative note for full details.
 
Past Medical History:
Depression
Hypertension
Hypercholesterolemia
Obesity (___ 31)

 
Social History:
___
Family History:
Uncontributory
 
Physical Exam:
Upon discharge

No acute distress
CV: Regular rate and rhythm. No murmurs, rubs or gallops
Lungs: Clear to auscultation bilaterally
Abdomen: Soft, non-tender and non-distended. Passing flatus. 
Incision with staples were clean, dry and intact.
Extremities: Non-tender and non-edematous.
 
Pertinent Results:
___ 06:41PM   PLT COUNT-236
___ 06:41PM   NEUTS-88.9* LYMPHS-6.0* MONOS-5.1 EOS-0.1 
BASOS-0
___ 06:41PM   WBC-9.2# RBC-3.66* HGB-11.6* HCT-33.0* MCV-90 
MCH-31.7 MCHC-35.1* RDW-12.8
___ 06:41PM   CALCIUM-8.0* PHOSPHATE-3.2 MAGNESIUM-1.8
___ 06:41PM   estGFR-Using this
___ 06:41PM   GLUCOSE-197* UREA N-9 CREAT-0.6 SODIUM-138 
POTASSIUM-4.0 CHLORIDE-104 TOTAL CO2-24 ANION GAP-14
 
Brief Hospital Course:
Ms. ___ was admitted into the gynecology service after 
undergoing the procedures listed above. Please refer to 
operative note for full details of the procedure.

She did well from a post-operative standpoint without any 
complications. Her foley was discontinued and she voided. She 
ambulated, tolerated a regular diet and passed flatus prior to 
discharge.

She was restarted on her home medications for hypertension and 
hypercholesterolemia.

She was discharged home on POD3 in good condition and with 
follow up for staple removal and routine post-op follow up.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 5 mg PO DAILY 
2. Cyclobenzaprine 10 mg PO TID:PRN pain 
3. Rosuvastatin Calcium 20 mg PO DAILY 
4. BuPROPion (Sustained Release) 150 mg PO BID 

 
Discharge Medications:
1. BuPROPion (Sustained Release) 150 mg PO BID 
2. Cyclobenzaprine 10 mg PO TID:PRN pain 
3. Lisinopril 5 mg PO DAILY 
4. Docusate Sodium 100 mg PO BID:PRN constipation 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*2
5. Ibuprofen 600 mg PO Q6H:PRN pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*60 Tablet Refills:*2
6. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q4H:PRN pain 
RX *oxycodone-acetaminophen 5 mg-325 mg ___ tablet(s) by mouth 
every four (4) hours Disp #*60 Tablet Refills:*0
7. Rosuvastatin Calcium 20 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pelvic pain, endometriosis
total abdominal hysterectomy, bilateral salpingo-oopherectomy, 
extensive lysis of adhesions, cystoscopy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after undergoing the 
procedure listed below. You have recovered well and the team 
feels that you are safe to be discharged home. Please follow the 
instructions below:

General instructions:  
* Take your medications as prescribed.  
* Do not drive while taking narcotics. 
* Take a stool softener such as colace while taking narcotics to 
prevent constipation 
* Do not combine narcotic and sedative medications or alcohol  
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs  
* No strenuous activity until your post-op appointment  
* Nothing in the vagina (no tampons, no douching, no sex) for 3 
months, no heavy lifting of objects >10lbs for 6 weeks.   
* You may eat a regular diet  

Incision care:  
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.  
* If you have staples, they will be removed at your follow-up 
visit.  

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.
 
Followup Instructions:
___